US05322952
To a solution of (1S,4S)-5-allyloxycarbonyl-2-thia-5-azabicyclo[2.2.1]heptan-3-one (30.6 mg) in tetrahydrofuran (1 ml) was added 4-methylpiperazine (15.8 mg). The mixture was stirred for 33 hours at room temperature. After the reaction was over, the mixture was diluted with ethyl acetate (2 ml). Distillation of the solvent gave oily 1-[(2S,4S)-1-allyloxycarbonyl-4-mercapto-2-pyrrolidinecarbonyl]-4-methylpiperazine.

reactant | (1S,4S)-5-allyloxycarbonyl-2-thia-5-azabicyclo[2.2.1]heptan-3-one | 30.6 mg | C(C=C)OC(=O)N1[C@@H]2C(S[C@H](C1)C2)=O | C9H11NO3S
reactant | 4-methylpiperazine | 15.8 mg | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(2S,4S)-1-allyloxycarbonyl-4-mercapto-2-pyrrolidinecarbonyl]-4-methylpiperazine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)C(=O)N1CCN(CC1)C | C14H23N3O3S
